US07915268B2
(2-Fluoro-6-iodophenyl)methanol.
To a stirred solution of 2-fluoro-6-iodobenzoic acid (10 mmol) in THF (6.5 mL) and trimethylborate (3.25 mL) was added borane dimethylsulfide (12 mmol) slowly, maintaining the internal temperature at 20-25° C. Stirring was continued for an additional 16 h at room temperature and then methanol (1.44 mL) was added cautiously. The resulted solution was evaporated in vacuo to offer 2.5 g of the title compound as a pale yellow oil.

reactant | 2-fluoro-6-iodobenzoic acid | 10 mmol | FC1=C(C(=O)O)C(=CC=C1)I | C7H4FIO2
reactant | borane dimethylsulfide | 12 mmol | CSC.B
reactant | methanol | 1.44 mL | CO | CH4O
solvent | THF | 6.5 mL | C1CCOC1 | C4H8O
solvent | trimethylborate | 3.25 mL | COB(OC)OC | C3H9BO3
product | (2-Fluoro-6-iodophenyl)methanol | FC1=C(C(=CC=C1)I)CO | C7H6FIO
